US08049015B2
Benzyl-(2-bromo-5-trifluoromethyl-benzyl)-amine and acetyl chloride were reacted as described in Example 11, Step 2 to provide N-benzyl-N-(2-bromo-5-trifluoromethyl-benzyl)-acetamide.

reactant | Benzyl-(2-bromo-5-trifluoromethyl-benzyl)-amine | C(C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(F)(F)F)Br | C15H13BrF3N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-benzyl-N-(2-bromo-5-trifluoromethyl-benzyl)-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)Br | C17H15BrF3NO
